US04100347
3,4-Dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylic Acid-1,1-dioxide (Hydrolysis in Aqueous Medium)
Methyl 3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide (50 g.) is added to a solution of sodium hydroxide (160 g.) in water (500 ml.) at 70° C. The resulting lemon-yellow slurry is then heated at 90°-95° C. for 45 minutes and then cooled to room temperature is an ice-water bath. The pH of the reaction mixture is adjusted to 1-1.5 by gradual addition of concentrated hydrochloric acid (350 ml.). Ice chips are added as necessary to keep the temperature below 35° C. The acid product precipitates and is granulated by stirring at 10°-15° C. for 15 minutes. It is recovered by suction filtration, washed with water (100 ml.) and reslurried in water (250 ml.) for a half hour to remove excess hydrochloric acid. It is again filtered with suction and washed with water (100 ml.). Twenty-five grams of the wet filter cake (total wet filter cake is 25.5 g.) is dissolved in warm methanol (150 ml.), the solution filtered and water (50 ml.) added to the filtrate. The addition of seed crystals causes immediate precipitation of product. The slurry is granulated by stirring at about 10° C. for a half hour. The white crystalline product is separated by filtration, washed with water and air-dried. Yield = 13.2 g., M.p. 144°-146° C.

reactant | Methyl 3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | 50 g | CN1S(C2=C(C(C1C(=O)OC)=O)C=CC=C2)(=O)=O | C11H11NO5S
reactant | sodium hydroxide | 160 g | [OH-].[Na+]
reactant | hydrochloric acid | 350 ml | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 3,4-Dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylic Acid-1,1-dioxide | CN1S(C2=C(C(C1C(=O)O)=O)C=CC=C2)(=O)=O | C10H9NO5S
